US07893056B2
To a solution of phenylmethyl (4R)-4-hydroxy-3,3-dimethyl-1-pyrrolidinecarboxylate (1.4088 g, 5.651 mmol) in MeCN (50 mL) was added N-methylmorpholine-N-oxide (0.861 g, 7.350 mmol) and tetra-N-propylammonium perruthenate (0.099 g, 0.282 mmol). The solution was stirred for 90 min, concentrated in vacuo, and purified directly by silica gel chromatography (20% EtOAc in hexanes) to give phenylmethyl 3,3-dimethyl-4-oxo-1-pyrrolidinecarboxylate (1.1321 g, 79%) as a colorless oil. LCMS: (M+Na)+: 270.4.

reactant | phenylmethyl (4R)-4-hydroxy-3,3-dimethyl-1-pyrrolidinecarboxylate | 5.651 mmol, 1.4088 g | O[C@@H]1C(CN(C1)C(=O)OCC1=CC=CC=C1)(C)C | C14H19NO3
reactant | N-methylmorpholine-N-oxide | 7.350 mmol, 0.861 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | MeCN | 50 mL | CC#N | C2H3N
product | phenylmethyl 3,3-dimethyl-4-oxo-1-pyrrolidinecarboxylate | 1.1321 g, 79% | CC1(CN(CC1=O)C(=O)OCC1=CC=CC=C1)C | C14H17NO3
